* hitkit post processing done
************************************************************************
* auCdl Netlist:
* 
* Library Name:  FBIAS
* Top Cell Name: fbias_vol_ref1_layout
* View Name:     schematic
* Netlisted on:  May 26 20:50:16 2026
************************************************************************

*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: FBIAS
* Cell Name:    fbias_vol_ref1_layout
* View Name:    schematic
************************************************************************

.SUBCKT fbias_vol_ref1_layout BIAS GNDA V1000 V1500 V1600 VBG VDDA
*.PININFO BIAS:B GNDA:B V1000:B V1500:B V1600:B VBG:B VDDA:B
MMN0<0> D1 VBG S GNDA nmos4 L=5u W=33u M=1
MMN0<1> D1 VBG S GNDA nmos4 L=5u W=33u M=1
MMN0<2> D1 VBG S GNDA nmos4 W=33u L=5u M=1
MMN0<3> D1 VBG S GNDA nmos4 M=1 W=33u L=5u
MMN0<4> D1 VBG S GNDA nmos4 W=33u L=5u M=1
MMN0<5> D1 VBG S GNDA nmos4 M=1 L=5u W=33u
MMN0<6> D1 VBG S GNDA nmos4 M=1 L=5u W=33u
MMN0<7> D1 VBG S GNDA nmos4 W=33u L=5u M=1
MMN0<8> D1 VBG S GNDA nmos4 L=5u W=33u M=1
MMN0<9> D1 VBG S GNDA nmos4 M=1 W=33u L=5u
MMN0<10> D1 VBG S GNDA nmos4 M=1 W=33u L=5u
MMN0<11> D1 VBG S GNDA nmos4 L=5u W=33u M=1
MMN1<0> D2 G2 S GNDA nmos4 M=1 W=33u L=5u
MMN1<1> D2 G2 S GNDA nmos4 M=1 L=5u W=33u
MMN1<2> D2 G2 S GNDA nmos4 M=1 L=5u W=33u
MMN1<3> D2 G2 S GNDA nmos4 M=1 L=5u W=33u
MMN1<4> D2 G2 S GNDA nmos4 M=1 L=5u W=33u
MMN1<5> D2 G2 S GNDA nmos4 W=33u L=5u M=1
MMN1<6> D2 G2 S GNDA nmos4 L=5u W=33u M=1
MMN1<7> D2 G2 S GNDA nmos4 M=1 L=5u W=33u
MMN1<8> D2 G2 S GNDA nmos4 L=5u W=33u M=1
MMN1<9> D2 G2 S GNDA nmos4 L=5u W=33u M=1
MMN1<10> D2 G2 S GNDA nmos4 M=1 W=33u L=5u
MMN1<11> D2 G2 S GNDA nmos4 M=1 L=5u W=33u
MMN3<0> BIAS BIAS GNDA GNDA nmos4 L=10u W=5u M=1
MMN3<1> BIAS BIAS GNDA GNDA nmos4 W=5u L=10u M=1
MMN5<0> GNDA GNDA GNDA GNDA nmos4 W=33u L=5u M=1
MMN5<1> GNDA GNDA GNDA GNDA nmos4 W=33u L=5u M=1
MMN5<2> GNDA GNDA GNDA GNDA nmos4 M=1 L=5u W=33u
MMN5<3> GNDA GNDA GNDA GNDA nmos4 L=5u W=33u M=1
MMN4<0> S BIAS GNDA GNDA nmos4 L=10u W=5u M=1
MMN4<1> S BIAS GNDA GNDA nmos4 L=10u W=5u M=1
MMP10<0> D2 D2 D2 VDDA pmos4 W=5u L=10u M=1
MMP10<1> D2 D2 D2 VDDA pmos4 L=10u W=5u M=1
MMP10<2> D2 D2 D2 VDDA pmos4 M=1 W=5u L=10u
MMP10<3> D2 D2 D2 VDDA pmos4 L=10u W=5u M=1
MMP2 Vo2 D1 VDDA VDDA pmos4 M=1 W=10u L=20u
MMP4<0> D2 D2 VDDA VDDA pmos4 W=5u L=10u M=1
MMP4<1> D2 D2 VDDA VDDA pmos4 W=5u L=10u M=1
MMP4<2> D2 D2 VDDA VDDA pmos4 M=1 W=5u L=10u
MMP4<3> D2 D2 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP4<4> D2 D2 VDDA VDDA pmos4 L=10u W=5u M=1
MMP4<5> D2 D2 VDDA VDDA pmos4 L=10u W=5u M=1
MMP4<6> D2 D2 VDDA VDDA pmos4 L=10u W=5u M=1
MMP4<7> D2 D2 VDDA VDDA pmos4 L=10u W=5u M=1
MMP4<8> D2 D2 VDDA VDDA pmos4 W=5u L=10u M=1
MMP4<9> D2 D2 VDDA VDDA pmos4 M=1 W=5u L=10u
MMP0<0> D1 D2 VDDA VDDA pmos4 W=5u L=10u M=1
MMP0<1> D1 D2 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP0<2> D1 D2 VDDA VDDA pmos4 M=1 W=5u L=10u
MMP0<3> D1 D2 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP0<4> D1 D2 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP0<5> D1 D2 VDDA VDDA pmos4 M=1 L=10u W=5u
MMP0<6> D1 D2 VDDA VDDA pmos4 L=10u W=5u M=1
MMP0<7> D1 D2 VDDA VDDA pmos4 L=10u W=5u M=1
MMP0<8> D1 D2 VDDA VDDA pmos4 W=5u L=10u M=1
MMP0<9> D1 D2 VDDA VDDA pmos4 L=10u W=5u M=1
RR31 net19 GNDA $[RPOLYH] $L=25u $W=0.8u
RR30 net18 net19 $[RPOLYH] $W=0.8u $L=25u
RR29 net16 net18 $[RPOLYH] $L=25u $W=0.8u
RR28 net17 net16 $[RPOLYH] $L=25u $W=0.8u
RR26 net14 net15 $[RPOLYH] $L=25u $W=0.8u
RR25 net13 net14 $[RPOLYH] $W=0.8u $L=25u
RR24 net12 net13 $[RPOLYH] $L=25u $W=0.8u
RR23 net11 net12 $[RPOLYH] $W=0.8u $L=25u
RR22 V1000 net11 $[RPOLYH] $W=0.8u $L=25u
RR20 net10 V1000 $[RPOLYH] $L=25u $W=0.8u
RR18 net8 G2 $[RPOLYH] $W=0.8u $L=25u
RR17 net9 net8 $[RPOLYH] $W=0.8u $L=25u
RR10 net1 net7 $[RPOLYH] $W=0.8u $L=25u
RR11 net7 net6 $[RPOLYH] $L=25u $W=0.8u
RR12 net6 net5 $[RPOLYH] $W=0.8u $L=25u
RR13 net5 V1600 $[RPOLYH] $W=0.8u $L=25u
RR8 net4 net2 $[RPOLYH] $W=0.8u $L=25u
RR9 net2 net1 $[RPOLYH] $L=25u $W=0.8u
RR0 D1 net3 $[RPOLYH] $W=2u $L=90u
RR27 net15 net17 $[RPOLYH] $W=0.8u $L=25u
RR14 V1600 V1500 $[RPOLYH] $W=0.8u $L=25u
RR16 V1500 net9 $[RPOLYH] $L=25u $W=0.8u
RR6 Vo2 net20 $[RPOLYH] $L=25u $W=0.8u
RR19 G2 net10 $[RPOLYH] $L=25u $W=0.8u
RR7 net20 net4 $[RPOLYH] $W=0.8u $L=25u
MC1<0> Vo2 net3 Vo2 GNDA CVAR W=990u L=650.00n
MC1<1> Vo2 net3 Vo2 GNDA CVAR W=990u L=650.00n
MC1<2> Vo2 net3 Vo2 GNDA CVAR W=990u L=650.00n
MC1<3> Vo2 net3 Vo2 GNDA CVAR L=650.00n W=990u
MC1<4> Vo2 net3 Vo2 GNDA CVAR W=990u L=650.00n
MC1<5> Vo2 net3 Vo2 GNDA CVAR L=650.00n W=990u
MC1<6> Vo2 net3 Vo2 GNDA CVAR L=650.00n W=990u
MC1<7> Vo2 net3 Vo2 GNDA CVAR W=990u L=650.00n
MC1<8> Vo2 net3 Vo2 GNDA CVAR W=990u L=650.00n
MC1<9> Vo2 net3 Vo2 GNDA CVAR W=990u L=650.00n
MC1<10> Vo2 net3 Vo2 GNDA CVAR L=650.00n W=990u
.ENDS

